US07271276B2
Synthesis of bis(2-diphenylphosphinophenyl)amine (H[PNP]).
A 100-mL Schlenk flask equipped with a condenser was flashed with nitrogen thoroughly. To this flask was added KPPh2 (20 mL, 0.5 M in THF solution, Aldrich, 10 mmol). THF was removed in vacuo and a solution of di(2-fluorophenyl)amine (1.00 g, 4.88 mmol) in 1,4-dioxane (8 ml) was added with a syringe. The transparent, ruby reaction solution was heated to reflux with stirring. The reaction condition was monitored by 31P{1H} NMR spectroscopy, which revealed the completion of reaction in 2 d. The resulting yellow solution was evaporated to dryness in vacuo. The residue was treated with degassed deionized water (50 mL) and the product was extracted with deoxygenated dichloromethane (15 mL). The dichloromethane solution was separated from the aqueous layer, from which the product was further extracted with dichloromethane (15 mL×3). The combined organic solution was dried over MgSO4 and filtered. All volatiles were removed in vacuo to yield the product as a pale yellow crystalline solid; yield 2.1 g (80.15%). 1H NMR (CDCl3, 300 MHz) δ 7.10-7.23 (m, 24, Ar), 6.69-6.76 (m, 5, Ar and NH). 31P{1H} NMR (CDCl3, 121.5 MHz) δ−19.58. 31P{1H} NMR (Et2O, 121.5 MHz) δ−18.62. 13C NMR (CDCl3, 75 MHz) δ 146.51 (JCP=21.1), 135.78 (JCP=8.0), 134.14, 133.72 (JCP=21.1), 129.64, 128.53 (JCP=12.0), 128.46 (JCP=7.5), 126.34 (JCP=10.1), 121.51, 118.16. Anal. Calcd. for C36H29NP2: C, 80.43; H, 5.44; N, 2.61. Found: C, 80.04; H, 5.56; N, 2.69.

reactant | KPPh2 | 10 mmol, 0.5 M, 20 mL | C1=CC=C(C=C1)[P-]C2=CC=CC=C2.[K+]
reactant | di(2-fluorophenyl)amine | 4.88 mmol, 1.00 g | FC1=C(C=CC=C1)NC1=C(C=CC=C1)F | C12H9F2N
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | bis(2-diphenylphosphinophenyl)amine | C1(=CC=CC=C1)P(C1=C(C=CC=C1)NC1=C(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H29NP2
